US08242130B2
2-(5-Methoxy-pyridin-2-yl)-chromen-4-one (790 mg, 3.12 mmol) in HI (10 mL) and AcOH (4 mL) was heated at reflux for 6 h. Reaction mixture was cooled to rt, diluted with water, neutralized and extracted with EtOAc to give crude product. This was purified by column chromatography using 5% MeOH in dichloromethane to give (270 mg, 36%) of 2-(5-Hydroxy-pyridin-2-yl)-chromen-4-one. MS (ES) m/z: 240.09 (M+1).

reactant | 2-(5-Methoxy-pyridin-2-yl)-chromen-4-one | 3.12 mmol, 790 mg | COC=1C=CC(=NC1)C=1OC2=CC=CC=C2C(C1)=O | C15H11NO3
solvent | HI | 10 mL | I | HI
solvent | AcOH | 4 mL | CC(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(5-Hydroxy-pyridin-2-yl)-chromen-4-one | 270 mg, 36% | OC=1C=CC(=NC1)C=1OC2=CC=CC=C2C(C1)=O | C14H9NO3
